### PR TITLE
feat(Combinatorics): card_le_card_biUnion_of_card_le_card

### PR DESCRIPTION
**Pull request by ghseeli**
This PR contributes a lemma to combinatorics, `card_le_card_biUnion_of_card_le_card`. this is a set theoretic corollary of a double counting result proved for bipartite graphs (`Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow`). This result was needed for our Latin Square PR https://github.com/leanprover-community/mathlib4/pull/36698. This result was proved in less general terms in that PR, but is independent of Latin Square considerations and so we have generalized and moved it into this file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 1]
```diff
@@ -213,6 +213,33 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+      congr 1
+      ext x
+      simp only [Finset.mem_filter, Finset.mem_biUnion]
+      exact ⟨fun hx ↦ ⟨⟨j, hj, hx⟩, hx⟩, fun hx ↦ hx.2⟩
+    _ = ∑ x ∈ s.biUnion B, Finset.card (s.bipartiteBelow (fun j x ↦ x ∈ B j) x) :=
+      Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow (fun j x ↦ x ∈ B j)
+    _ = ∑ x ∈ s.biUnion B, Finset.card {j ∈ s | x ∈ B j} := rfl
+    _ ≤ ∑ x ∈ s.biUnion B, n := Finset.sum_le_sum h_ub
+    _ = Finset.card (s.biUnion B) * n := by simp
+  exact Nat.le_of_mul_le_mul_right h_sum hn
```
Comment (wwylele) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: minor golf
```suggestion
  refine Nat.le_of_mul_le_mul_right ?_ hn
  calc
    Finset.card s * n = ∑ j ∈ s, n := by simp
    _ ≤ ∑ j ∈ s, Finset.card (B j) := Finset.sum_le_sum h_card
    _ = ∑ j ∈ s, Finset.card ((s.biUnion B).bipartiteAbove (fun j x ↦ x ∈ B j) j) := by
      apply Finset.sum_congr rfl
      intro j hj
      rw [Finset.bipartiteAbove]
      congr 1
      grind
    _ = ∑ x ∈ s.biUnion B, Finset.card (s.bipartiteBelow (fun j x ↦ x ∈ B j) x) :=
      Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow (fun j x ↦ x ∈ B j)
    _ ≤ ∑ x ∈ s.biUnion B, n := Finset.sum_le_sum h_ub
    _ = Finset.card (s.biUnion B) * n := by simp
```

Comment (cjrl) [reply Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: Thanks!

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 2]
```diff
@@ -213,6 +213,58 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+lemma card_le_card_biUnion_of_card_eq_of_card_filter_le {α : Type*} [DecidableEq α]
+    {n : Type*} [Fintype n] [DecidableEq n] {B : n → Finset α} (k : ℕ) [h₁ : NeZero k]
+    (h₂ : ∀ j, Finset.card (B j) = k)
+    (h₃ : ∀ x, ∀ (t : Finset n), Finset.card {j | j ∈ t ∧ x ∈ B j} ≤ k) :
+    ∀ (s : Finset n), (Finset.card s) ≤ (Finset.card (s.biUnion B)) := by
+  intro s
+  have : 0 < k := by grind [h₁.out]
+  apply Finset.card_le_card_biUnion_of_card_le_card (n := k) B s (by lia)
+  · intro j _
+    exact (h₂ j).ge
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
    (h₃ : ∀ x, ∀ (t : Finset n), Finset.card {j | j ∈ t ∧ x ∈ B j} ≤ k) (s : Finset n) :
    Finset.card s ≤ Finset.card (s.biUnion B) := by
  apply Finset.card_le_card_biUnion_of_card_le_card (n := k) B s (by grind [h₁.out])
  · exact fun j _ ↦ (h₂ j).ge
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 3]
```diff
@@ -213,6 +213,58 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+  · intro x _
+    have ht : Finset.card {j | j ∈ s ∧ x ∈ B j} = Finset.card {j ∈ s | x ∈ B j} := by
+      congr 1
+      ext j
+      simp [and_comm]
+    rw [← ht]
+    exact h₃ x s
+
+
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean:253]:
```suggestion
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 4]
```diff
@@ -213,6 +213,58 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+the cardinality of any set of indices `s` is bounded by the
+cardinality of its bipartite union `s.biUnion B`.
+
+This effectively verifies the Hall marriage condition for the family
+`B` using a double-counting argument.
+-/
+lemma card_le_card_biUnion_of_card_eq_of_card_filter_le {α : Type*} [DecidableEq α]
+    {n : Type*} [Fintype n] [DecidableEq n] {B : n → Finset α} (k : ℕ) [h₁ : NeZero k]
+    (h₂ : ∀ j, Finset.card (B j) = k)
+    (h₃ : ∀ x, ∀ (t : Finset n), Finset.card {j | j ∈ t ∧ x ∈ B j} ≤ k) :
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: Why use `Finset.card {j | j ∈ t ∧ x ∈ B j}` here and `Finset.card {j ∈ s | x ∈ B j}` above? I ask because the reason you need `ht` below is to rewrite from former to the latter form, but I don't understand why not just write it the second way.

Comment (cjrl) [reply Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: Thanks @vlad902, agree with your comment. We had rigged it up that way to fit something in our Latin Square PR #36698 but have fixed it here and altered it down stream. P.S. think that the Latin Square PR is looking a lot better than when we first submitted it and you gave us feedback a few months ago!

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 5]
```diff
@@ -213,6 +213,49 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+-/
+lemma card_le_card_biUnion_of_card_eq_of_card_filter_le {α : Type*} [DecidableEq α]
+    {n : Type*} {B : n → Finset α} (k : ℕ) [h₁ : NeZero k]
+    (h₂ : ∀ j, Finset.card (B j) = k)
+    (h₃ : ∀ x, ∀ (t : Finset n), Finset.card {j ∈ t | x ∈ B j} ≤ k) (s : Finset n) :
+    Finset.card s ≤ Finset.card (s.biUnion B) := by
+  apply Finset.card_le_card_biUnion_of_card_le_card (n := k) B s (by grind [h₁.out])
+  · exact fun j _ ↦ (h₂ j).ge
+  · intro x _
+    exact h₃ x s
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
    Finset.card s ≤ Finset.card (s.biUnion B) :=
  Finset.card_le_card_biUnion_of_card_le_card B s (by grind [h₁.out]) (fun j _ ↦ (h₂ j).ge)
    (fun x _ ↦ h₃ x s)
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 6]
```diff
@@ -213,6 +213,49 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
   · grind [bipartiteAbove]
   · grind [bipartiteBelow]
 
+/-- Given a finite collection of finite subsets $B_1, \ldots, B_k$ such that
+each $B_i$ has at least $n$ elements. For every $x \in \bigcup_i B_i$, let $C_x$
+be the set of indices of the $B_i$’s that contain $x$. Then, if every $C_x$ contains
+at most $n$ elements, then $\bigcup_i B_i$ has at least $k$ elements. -/
+lemma card_le_card_biUnion_of_card_le_card [DecidableEq β]
+    (B : α → Finset β) (s : Finset α) (hn : 0 < n)
+    (h_card : ∀ j ∈ s, n ≤ Finset.card (B j))
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: The rest of this file uses `#(B j)` instead of `Finset.card (B j)`, I'd update that here and everywhere below.

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 7]
```diff
@@ -213,6 +213,47 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+/-- For a family of finsets `B` indexed by `n`, if every set `B j` is
+nonempty with size `k` and every element `x` belongs
+to at most `k` sets within any index subset `t`, then
+the cardinality of any set of indices `s` is bounded by the
+cardinality of its bipartite union `s.biUnion B`.
+
+This effectively verifies the Hall marriage condition for the family
+`B` using a double-counting argument.
+-/
+lemma card_le_card_biUnion_of_card_eq_of_card_filter_le {α : Type*} [DecidableEq α]
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
lemma card_le_card_biUnion_of_card_eq_of_card_filter_le [DecidableEq α]
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 8]
```diff
@@ -213,6 +213,47 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+    {n : Type*} {B : n → Finset α} (k : ℕ) [h₁ : NeZero k]
+    (h₂ : ∀ j, #(B j) = k)
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
    {n : Type*} {B : n → Finset α} (k : ℕ) [h₁ : NeZero k] (h₂ : ∀ j, #(B j) = k)
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 9]
```diff
@@ -213,6 +213,47 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
   · grind [bipartiteAbove]
   · grind [bipartiteBelow]
 
+/-- Given a finite collection of finite subsets $B_1, \ldots, B_k$ such that
+each $B_i$ has at least $n$ elements. For every $x \in \bigcup_i B_i$, let $C_x$
+be the set of indices of the $B_i$’s that contain $x$. Then, if every $C_x$ contains
+at most $n$ elements, then $\bigcup_i B_i$ has at least $k$ elements. -/
+lemma card_le_card_biUnion_of_card_le_card [DecidableEq β]
+    (B : α → Finset β) (s : Finset α) (hn : 0 < n)
+    (h_card : ∀ j ∈ s, n ≤ #(B j))
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]:
```suggestion
    (B : α → Finset β) (s : Finset α) (hn : 0 < n) (h_card : ∀ j ∈ s, n ≤ #(B j))
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 10]
```diff
@@ -213,6 +213,47 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+nonempty with size `k` and every element `x` belongs
+to at most `k` sets within any index subset `t`, then
+the cardinality of any set of indices `s` is bounded by the
+cardinality of its bipartite union `s.biUnion B`.
+
+This effectively verifies the Hall marriage condition for the family
+`B` using a double-counting argument.
+-/
+lemma card_le_card_biUnion_of_card_eq_of_card_filter_le {α : Type*} [DecidableEq α]
+    {n : Type*} {B : n → Finset α} (k : ℕ) [h₁ : NeZero k]
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: Above you use `hn : 0 < n`, here `NeZero k`. I suspect that this should also be `0 < k` since its not used as a typeclass below (and maybe I'd change the names of n and k here and it'll save you defining k).

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean [hunk 11]
```diff
@@ -213,6 +213,47 @@ lemma sum_card_eq_sum_biUnion_card [Fintype α] [DecidableEq α] [DecidableEq β
...
+    #s * n = ∑ j ∈ s, n := by simp
+    _ ≤ ∑ j ∈ s, #(B j) := Finset.sum_le_sum h_card
+    _ = ∑ j ∈ s, #((s.biUnion B).bipartiteAbove (fun j x ↦ x ∈ B j) j) := by
+      apply Finset.sum_congr rfl
+      intro j hj
+      rw [Finset.bipartiteAbove]
+      congr 1
+      grind
+    _ = ∑ x ∈ s.biUnion B, #(s.bipartiteBelow (fun j x ↦ x ∈ B j) x) :=
+      Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow (fun j x ↦ x ∈ B j)
```
Comment (vlad902) [inline Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: This is really quite a minor point, but since this parameter can be inferred from the goal state I'd just leave it as a hole (it's a bit less visual clutter/easier to read, but this is quite minor)
```suggestion
      Finset.sum_card_bipartiteAbove_eq_sum_card_bipartiteBelow _
```

File: Mathlib/Combinatorics/Enumerative/DoubleCounting.lean (hunk 10 above)
Comment (cjrl) [reply Mathlib/Combinatorics/Enumerative/DoubleCounting.lean]: Thanks and agree this is much nicer!
